US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-dimethylamino-2-isopropylimino-1,3-thiazolidine-4-ol-hydrobromide
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 2.4 g of 1,1-dimethyl-4-isopropylthiosemicarbazide were reacted according to the prescription of Example 23 and the crystalline end product was filtered off. Colorless crystals: melting point: 189° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1,1-dimethyl-4-isopropylthiosemicarbazide | 2.4 g | CN(NC(=S)NC(C)C)C | C6H15N3S
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-dimethylamino-2-isopropylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC(C)C)N(C)C)O)S(N)(=O)=O | InChI=1S/C14H21ClN4O3S2.BrH/c1-9(2)17-13-19(18(3)4)14(20,8-23-13)10-5-6-11(15)12(7-10)24(16,21)22;/h5-7,9,20H,8H2,1-4H3,(H2,16,21,22);1H
